US08258144B2
6-(4-Amino-5-(4-fluorophenyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-1-methyl-3,4-dihydroquinolin-2(1H)-one
A solution of 2-chloro-N-cyclopropyl-5-(4-fluorophenyl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (76 mg, 0.17 mmol), 6-amino-1-methyl-3,4-dihydroquinolin-2(1H)-one (60 mg, 0.34 mmol) and trimethylsilyl chloride (0.200 mL, 1.58 mmol) in nBuOH (2 mL) was stirred at 135° C. for 20 h. It was concentrated in vacuo. The residue was purified by HPLC to give the titled compound. MS 403.4 (M+H); UV 205.3, 293.4 nm.

reactant | 2-chloro-N-cyclopropyl-5-(4-fluorophenyl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.17 mmol, 76 mg | ClC=1N=C(C2=C(N1)N(C=C2C2=CC=C(C=C2)F)S(=O)(=O)C2=CC=C(C)C=C2)NC2CC2 | C22H18ClFN4O2S
reactant | 6-amino-1-methyl-3,4-dihydroquinolin-2(1H)-one | 0.34 mmol, 60 mg | NC=1C=C2CCC(N(C2=CC1)C)=O | C10H12N2O
reactant | trimethylsilyl chloride | 1.58 mmol, 0.200 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 2 mL | C(CCC)O | C4H10O
product | 6-(4-Amino-5-(4-fluorophenyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-1-methyl-3,4-dihydroquinolin-2(1H)-one | NC=1C2=C(N=C(N1)NC=1C=C3CCC(N(C3=CC1)C)=O)NC=C2C2=CC=C(C=C2)F | C22H19FN6O
